US07741327B2
A solution of (E)-3-[4-(2-hydroxy-2-methyl-propyl)-phenoxy]-but-2-enoic acid ethyl ester (0.500 g, 1.80 mmol) in dichloromethane (40 mL) was treated with N-bromosuccinimide (0.350 g, 1.97 mmol) and 2,2′-azobis(2,4′-dimethylvaleronitrile) (0.045 g, 0.18 mmol) under nitrogen. The mixture was then refluxed for 5 h, cooled and concentrated in vacuo. The residue was purified by flash column chromatography (silica gel, 0% to 30% ethyl acetate/hexanes) to afford the intermediate (E)-4-bromo-3-[4-(2-hydroxy-2-methyl-propyl)-phenoxy]-but-2-enoic acid ethyl ester. A solution of (E)-4-bromo-3-[4-(2-hydroxy-2-methyl-propyl)-phenoxy]-but-2-enoic acid ethyl ester in acetonitrile (20 mL) was immediately treated with (L)-leucine methyl ester hydrochloride (0.21 g, 2.17 mmol) and N,N-diisopropylethylamine (0.510 g, 3.95 mmol). The resulting mixture was sealed in a tube and heated at 90° C. overnight and then cooled and partitioned between ethyl acetate and water. The organic layer was collected, dried over sodium sulfate, filtered and concentrated in vacuo. The residue was dissolved in tetrahydrofuran (approximately 5 mL) and heated at 160° C., for 6 h in a sealed tube. At this time, the reaction was cooled to room temperature and concentrated in vacuo. The residue was purified by flash column chromatography (silica gel, 30% to 100% ethyl acetate/hexanes) to afford, (S)-2-{4-[4-(2-hydroxy-2-methyl-propyl)-phenoxy]-2-oxo-2,5-dihydro-pyrrol-1-yl}-4-methyl-pentanoic acid methyl ester (0.180 g, 27%) as a waxy off-white solid.

reactant | (E)-3-[4-(2-hydroxy-2-methyl-propyl)-phenoxy]-but-2-enoic acid ethyl ester | 1.80 mmol, 0.500 g | C(C)OC(\C=C(/C)\OC1=CC=C(C=C1)CC(C)(C)O)=O | C16H22O4
reactant | N-bromosuccinimide | 1.97 mmol, 0.350 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 2,2′-azobis(2,4′-dimethylvaleronitrile) | 0.18 mmol, 0.045 g | N(=NC(C#N)(CC(C)C)C)C(C#N)(CC(C)C)C | C14H24N4
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
product | (E)-4-bromo-3-[4-(2-hydroxy-2-methyl-propyl)-phenoxy]-but-2-enoic acid ethyl ester | C(C)OC(\C=C(/CBr)\OC1=CC=C(C=C1)CC(C)(C)O)=O | C16H21BrO4
